//============================================================================
// Switch
// ----------------------------------------------------------------------------
// Sxx NC N1 N2 [MNAME] [RON [CREC]]
//============================================================================
s23 c n2 n6 2000 0.02e-12
s7 ck3 5 7 styp